US07691885B2
2-fluoro-5-phenylpyridine
To a solution of 5-bromo-2-fluoropyridine (2.33 g, 13.2 mmol) in toluene (100 mL) and ethanol (25 mL) were added Pd(PPh3)4 (764 mg, 0.66 mmol), phenylboronic acid (2.42 g, 19.8 mmol, 1.5 eq) and a solution of sodium carbonate (9.6 g, 90.7 mmol, 6.85 eq) in water (50 mL). The reaction mixture was heated to 90 C for 2 hours, allowed to cool to room temperature and partitioned between water and ethyl acetate. The organic layer was dried and evaporated and the residue purified by column chromatography (petrol/ethyl acetate gradient) to afford the title compound as a colorless oil (2.14 g, 93%)

reactant | 5-bromo-2-fluoropyridine | 13.2 mmol, 2.33 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | phenylboronic acid | 19.8 mmol, 2.42 g, 1.5 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 90.7 mmol, 9.6 g, 6.85 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.66 mmol, 764 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-5-phenylpyridine | 2.14 g, 93% | FC1=NC=C(C=C1)C1=CC=CC=C1 | C11H8FN
